US05686482
A 2.0 g portion of 4-cyclopropylcarbonylamino-5-chloro-2-methoxybenzoic acid and 856 mg of potassium hydroxide were dissolved in 30 ml of methanol, and 600 mg of 10% palladium-carbon powder was added, followed by stirring at room temperature for 9 hours in an atmosphere of hydrogen. The reaction solution was filtered, and the filtrate was concentrated under a reduced pressure, diluted with 1N hydrochloric acid aqueous solution and then extracted with chloroform. The organic layer was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate. Then, the solvent was evaporated under a reduced pressure and the resulting residue was washed with diethyl ether to give 1.60 g of 4-cyclopropylcarbonylamino-2-methoxybenzoic acid.

reactant | 4-cyclopropylcarbonylamino-5-chloro-2-methoxybenzoic acid | C1(CC1)C(=O)NC1=CC(=C(C(=O)O)C=C1Cl)OC | C12H12ClNO4
reactant | potassium hydroxide | 856 mg | [OH-].[K+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium-carbon | 600 mg | [C].[Pd]
product | 4-cyclopropylcarbonylamino-2-methoxybenzoic acid | 1.60 g | C1(CC1)C(=O)NC1=CC(=C(C(=O)O)C=C1)OC | C12H13NO4
